US07776875B2
Preparation of Intermediate 2-(4-chloro-2-formyl-phenoxy)-pentanoic acid ethyl ester
A mixture of 5-chloro-2-hydroxy-benzaldehyde (15 g, 0.1 mol), 2-bromo-pentanoic acid ethyl ester (27 g, 0.13 mol) and K2CO3 (27 g, 0.2 mol) in DMF (100 mL) was heated at 140° C. for 1 h. After cooled to room temperature, the mixture was poured into water and the water phase was extracted with EtOAc thrice. The combined organic layers were washed with water and brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified by flash column to give the title compound as a colorless oil (24 g).

reactant | 5-chloro-2-hydroxy-benzaldehyde | 0.1 mol, 15 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | 2-bromo-pentanoic acid ethyl ester | 0.13 mol, 27 g | C(C)OC(C(CCC)Br)=O | C7H13BrO2
reactant | K2CO3 | 0.2 mol, 27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(4-chloro-2-formyl-phenoxy)-pentanoic acid ethyl ester | 24 g | C(C)OC(C(CCC)OC1=C(C=C(C=C1)Cl)C=O)=O | C14H17ClO4
